US07981900B2
6-Chloro-N-[1-(4-methylphenyl)butyl]pyrazin-2-amine
To a solution of 1-[4-(trifluoromethyl)phenyl]butan-1-amine (0.40 g, 1.9 mmol) and 2,6-dichloropyrazine (0.55 g, 3.7 mmol) in 1,4-dioxane (6 mL) was added anhydrous potassium carbonate (0.39 g, 2.8 mmol). The resulting mixture was heated at reflux for 18 h. After cooling to room temperature, the mixture was diluted with ethyl acetate and H2O. The organic phase was collected, dried and concentrated. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:1) to give pure product (0.03 g, 5%).

reactant | 1-[4-(trifluoromethyl)phenyl]butan-1-amine | 1.9 mmol, 0.40 g | FC(C1=CC=C(C=C1)C(CCC)N)(F)F | C11H14F3N
reactant | 2,6-dichloropyrazine | 3.7 mmol, 0.55 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 2.8 mmol, 0.39 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | H2O | O | H2O
product | 6-Chloro-N-[1-(4-methylphenyl)butyl]pyrazin-2-amine | 0.03 g, 5% | ClC1=CN=CC(=N1)NC(CCC)C1=CC=C(C=C1)C | C15H18ClN3
